US06936612B2
8-Cyclopentyl-6-ethoxymethyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (4.60 g, 14.40 mmol) and 2-benzenesulfonyl-3-phenyl-oxaziridine (4.89 g, 18.72 mmol) were dissolved in dichloromethane (30 mL) and stirred at ambient temperature for 12 hours. The crude product was then purified by silica gel chromatography to give 8-cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one as a white waxy solid (2.67 g, 55.3%). 1H NMR δ (400 MHz, CDCl3) 8.94 (s, 1H), 7.81 (t, J=1.7 Hz, 1H), 5.98 (m, 1H), 4.50 (d, J=1.7 Hz, 1H), 3.68 (q, J=7.1 Hz, 2H), 2.96 (s, 3H), 2.22 (m, 2H), 2.12 (m, 2H), 1.94 (m, 2H), 1.69 (m, 2H), 1.31 (t, J=7.1 Hz, 3H).

reactant | 8-Cyclopentyl-6-ethoxymethyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 14.40 mmol, 4.60 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)COCC)=O | C16H21N3O2S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 18.72 mmol, 4.89 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 8-cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COCC)=O | C16H21N3O3S
